US09029409B2
To a solution of 6-chloro-2-methyl-3-oxo-2,3-dihydropyridazine-4-carbaldehyde (2 g, 11.59 mmol, Preparation #30) in MeOH (30 mL) was added a solution of hydroxylamine hydrochloride (0.966 g, 13.91 mmol) in water (5 mL) and heated to about 70° C. for 1 h. The mixture was cooled to RT and solids obtained were collected by filtration to afford the 6-chloro-2-methyl-3-oxo-2,3-dihydropyridazine-4-carbaldehyde oxime 1.6 g, (73.6%) as an off white solid. 1H NMR (400 MHz, DMSO) δ 12.316 (s, 1H), 8.092 (s, 1H), 7.675 (s, 1H), 3.651 (s, 3H); MS m/z: 185.7 (M−H)−

reactant | 6-chloro-2-methyl-3-oxo-2,3-dihydropyridazine-4-carbaldehyde | 11.59 mmol, 2 g | ClC=1C=C(C(N(N1)C)=O)C=O | C6H5ClN2O2
reactant | hydroxylamine hydrochloride | 13.91 mmol, 0.966 g | Cl.NO
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 6-chloro-2-methyl-3-oxo-2,3-dihydropyridazine-4-carbaldehyde oxime | 1.6 g, 73.6% | ClC=1C=C(C(N(N1)C)=O)C=NO | C6H6ClN3O2
